US05733905
N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepin-5-yl)carbonyl)phenyl]-2-methyl-benzamide
To a stirred solution of 5 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 7 mmol of triethylamine and 5 mmol of 6,7-dihydro-5-(4-aminobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine. The reaction mixture is washed with water, 2M citric acid, NaHCO3, and brine. The organic layer is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give the desired product as a solid; mass spectrum (CI): 422(M+H).

reactant | 2-methylbenzoyl chloride | 5 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 7 mmol | C(C)N(CC)CC | C6H15N
reactant | 6,7-dihydro-5-(4-aminobenzoyl)-5H-pyrrolo[1,2-a][1,5]benzodiazepine | 5 mmol | NC1=CC=C(C(=O)N2CCC=3N(C4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,7-Dihydro-5H-pyrrolo[1,2-a][1,5]benzodiazepin-5-yl)carbonyl)phenyl]-2-methyl-benzamide | C1=CC=CC=2N(CCC=3N(C21)C=CC3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C27H23N3O2
